US06545161B2
Preparation of 4-chloro-6-fluoro-3-methoxy-2-nitroaniline
3-Chloro-5-fluoro-2-methoxy-6-(phthalimido)aniline (0.6 g, 1.7 mmol) was dissolved in dimethylsulfoxide (3 ml) and anhydrous hydrazine (0.22 g, 6.8 mmol) was added. The solution was stirred at ambient temperature for 12 hr under a stream of nitrogen. Water was added and the product extracted with ether. The organic layer was washed with water, dried (anhydrous sodium sulfate), and evaporated to furnish the title compound (0.22 g). 1H NMR (CDCl3, 300 MHz) 3.98 (3H, s), 5.09 (2H, br s), 7.2 (1H, d, J=10.5 Hz) ppm.

reactant | 3-Chloro-5-fluoro-2-methoxy-6-(phthalimido)aniline | 1.7 mmol, 0.6 g | ClC=1C(=C(N)C(=C(C1)F)N1C(C=2C(C1=O)=CC=CC2)=O)OC | C15H10ClFN2O3
reactant | hydrazine | 6.8 mmol, 0.22 g | NN | H4N2
reactant | Water | O | H2O
reactant | dimethylsulfoxide | 3 ml | CS(=O)C | C2H6OS
product | 4-chloro-6-fluoro-3-methoxy-2-nitroaniline | 0.22 g | ClC1=C(C(=C(N)C(=C1)F)[N+](=O)[O-])OC | C7H6ClFN2O3
